US07202364B2
A mixture of 2.50 g (10 mmol) of N-(3-chloro-2-naphthyl)carbamic acid ethyl ester and 7.1 g of Selectfluor® (20 mmol) in 30 mL of CH2CN is heated to reflux under an atmosphere of nitrogen for 16 hours. After cooling to room temperature, the solids are filtered and the solvent is evaporated to give a residue that is diluted with 200 mL of EtOAc. The mixture is washed 3 times with 50 mL of H2O, once with 50 mL of saturated brine and dried over MgSO4. Evaporation of the solvents gives a residue that is purified by flash chromatography on silica gel (100% CH2Cl2) to give N-(1-fluoro-3-chloro-2-naphthyl)carbamic acid ethyl ester.

reactant | N-(3-chloro-2-naphthyl)carbamic acid ethyl ester | 10 mmol, 2.50 g | C(C)OC(NC1=CC2=CC=CC=C2C=C1Cl)=O | C13H12ClNO2
reactant | Selectfluor | 7.1 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | N-(1-fluoro-3-chloro-2-naphthyl)carbamic acid ethyl ester | C(C)OC(NC1=C(C2=CC=CC=C2C=C1Cl)F)=O | C13H11ClFNO2
